US07153863B2
To a cold (0° C.) solution of {3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-2-yl}(phenyl)methanol (294 mg, 0.844 mmol) in dichloromethane (30 mL) was added m-chloroperoxybenzoic acid (218 mg, 1.26 mmol). The reaction mixture was stirred for 1.5 hours at 0° C., then diluted with dichloromethane and washed with saturated aqueous sodium bicarbonate solution. The organic layer was dried over magnesium sulfate, then filtered and concentrated. The resulting solid was heated in cyclopentylamine (2 mL, 20 mmol) at 45° C. for 16 hours. Concentration and flash chromatography (59:1 dichloromethane:methanol) provided {3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}(phenyl)methanol (120 mg, 89%) as a light yellow solid. Rf 0.55 (29:1 dichloromethane:methanol); 1H NMR (CDCl3) δ 8.50 (d, 1H), 8.22 (d, 1H), 7.96 (br, 1H), 7.82 (d, 1H), 7.40 (d, 2H), 7.35–7.17 (m, 4H), 6.85 (t, 1H), 6.78 (d, 1H), 6.20 (s, 1H), 5.12 (s, 1H), 4.29 (m, 1H), 2.05 (m, 2H), 1.79–1.60 (m, 4H), 1.49 (m, 2H); MS m/z 386 (M+1).

reactant | {3-[2-(methylthio)pyrimidin-4-yl]pyrazolo[1,5-a]pyridin-2-yl}(phenyl)methanol | 0.844 mmol, 294 mg | CSC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C(O)C2=CC=CC=C2 | C19H16N4OS
reactant | m-chloroperoxybenzoic acid | 1.26 mmol, 218 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | cyclopentylamine | 20 mmol, 2 mL | C1(CCCC1)N | C5H11N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | {3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}(phenyl)methanol | 120 mg, 89% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C(O)C2=CC=CC=C2 | C23H23N5O
